US07902252B2
4.29. Synthesis of 6-propyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (110)
The title compound was synthesized from methyl 6-propyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.15 g, 0.72 mmol) and lithium hydroxide monohydrate (0.3 g, 7.24 mmol), according to General Procedure 7. A 1:1 mixture of methanol (MeOH) and THF (10 mL) was used. The resulting product was purified by chromatography over silica gel (gradient 0 to 100% EtOAc in heptane over 20 min) to give the title compound (75 mg). 1H NMR (400 MHz, METHANOL-d4) δ ppm 0.94 (t, J=7.0 Hz, 3H) 1.32-1.49 (m, 3H), 1.62-1.80 (m, 1H), 1.93-2.08 (m, 1H), 2.43-2.65 (m, 3H), 3.01 (br. s, 1H) 6.57 (s, 1H). LCMS m/e 249 (M−H) and 96% pure by HPLC.

reactant | methyl 6-propyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.72 mmol, 0.15 g | C(CC)C1CCC2=C1NC(=C2)C(=O)OC | C12H17NO2
reactant | lithium hydroxide monohydrate | 7.24 mmol, 0.3 g | O.[OH-].[Li+]
reactant | methanol | CO | CH4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-propyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | 75 mg | C(CC)C1CCC2=C1NC(=C2)C(=O)O | C11H15NO2
